US05728878
Preparation of N-(5-hydroxypentyl)-3-(N-vinylformamido)propionamide
The apparatus of Example 2 was charged with 15.7 grams (0.1 mol) of methyl 3-(N-vinylformamido)propionate, 10.3 grams (0.1 mol) of 5-amino-1-pentanol and 0.12 gram of 25% sodium methoxide in methanol solution. The mixture was stirred at 90° C. for 3 hours after which the methanol coproduct was removed by distillation at reduced pressure. NMR analysis of the remaining amber liquid indicated about 69% conversion to the desired product.

reactant | methyl 3-(N-vinylformamido)propionate | 0.1 mol, 15.7 grams | C(=C)N(C=O)CCC(=O)OC | C7H11NO3
reactant | 5-amino-1-pentanol | 0.1 mol, 10.3 grams | NCCCCCO | C5H13NO
reactant | sodium methoxide | 0.12 gram | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | N-(5-hydroxypentyl)-3-(N-vinylformamido)propionamide | OCCCCCNC(CCN(C=O)C=C)=O | C11H20N2O3
